US07816522B2
(27a) 8-ethyl-4H-benzo[1,3]dioxine-6-carbaldehyde
To a solution of 1.50 g of this compound in 30 ml of THF there was added dropwise 4.5 ml of n-butyllithium (1.58 M, hexane solution) at −70° C. under a nitrogen atmosphere. After stirring at −70° C. for 30 minutes, 1 ml of N-formylmorpholine was added and the temperature was raised from −70° C. to 0° C. over a period of 30 minutes. Saturated aqueous ammonium chloride was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (871 mg).

reactant | n-butyllithium | 1.58 M, 4.5 ml | C(CCC)[Li]
reactant | N-formylmorpholine | 1 ml | C(=O)N1CCOCC1 | C5H9NO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | 8-ethyl-4H-benzo[1,3]dioxine-6-carbaldehyde | 871 mg | C(C)C1=CC(=CC=2COCOC21)C=O | C11H12O3
